US09353107B2
Step-ii: 5-(3-fluoro-4-(piperazin-1-yl)phenyl)-3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridine
Using similar reaction conditions as described in step-ii of example-7, tert-butyl 4-(2-fluoro-4-(3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)piperazine-1-carboxylate (150 mg, 0.206 mmol) was deprotected in TFA/DCM (1/1 ml) to afford 120 mg (93% yield) of the titled compound. MS: m/z=625.1 (M+1).

reactant | tert-butyl 4-(2-fluoro-4-(3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)piperazine-1-carboxylate | 0.206 mmol, 150 mg | FC1=C(C=CC(=C1)C=1C=C2C(=NC1)N(C=C2C=2C=NN(C2)CC2=CC(=CC=C2)F)S(=O)(=O)C2=CC=C(C)C=C2)N2CCN(CC2)C(=O)OC(C)(C)C | C39H38F2N6O4S
solvent | TFA DCM | 1 ml | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | 5-(3-fluoro-4-(piperazin-1-yl)phenyl)-3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridine | 120 mg, 93% yield | FC=1C=C(C=CC1N1CCNCC1)C=1C=C2C(=NC1)N(C=C2C=2C=NN(C2)CC2=CC(=CC=C2)F)S(=O)(=O)C2=CC=C(C)C=C2 | C34H30F2N6O2S
